US07910751B2
<Step 1> Synthesis of 2-hydroxy-4-trifluoromethyl-benzamide
Thionyl chloride (2.7 mL) and N,N-dimethylformamide (0.1 mL) were added to a toluene (50.0 mL) solution of 4-trifluoromethylsalicylic acid (5.0 g), and the reaction mixture was refluxed for 30 minutes. The reaction mixture was left to cool. The reaction mixture was then added dropwise to aqueous ammonia (50.0 mL) under ice cooling, and the reaction mixture was stirred at the same temperature for 10 minutes. The pH of the reaction mixture was adjusted to 3 with concentrated hydrochloric acid, and the reaction mixture was then extracted with ethyl acetate. The organic layer was sequentially washed with water and a saturated brine and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluate; n-hexane:ethyl acetate=100:0 to 50:50). The title compound (1.84 g) was obtained as pale beige crystals.

reactant | Thionyl chloride | 2.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-trifluoromethylsalicylic acid | 5.0 g | FC(C=1C=C(C(C(=O)O)=CC1)O)(F)F | C8H5F3O3
reactant | ammonia | 50.0 mL | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 50.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | 2-hydroxy-4-trifluoromethyl-benzamide | 1.84 g | OC1=C(C(=O)N)C=CC(=C1)C(F)(F)F | C8H6F3NO2
